US05324709
N-(5-(4-Acetoxytetrahydrofuran-3-yloxycarbonylmethylthio)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide
A mixture of 14.0 g of N-(4-chloro-2-fluoro-5-mercaptophenyl)-3,4,5,6-tetrahydrophthalimide, 11.0 g of 4-acetoxytetrahydrofuran-3-yl chloroacetate, 7.46 g of potassium carbonate, 1.5 g of potassium iodide and 150 ml of acetone was refluxed under stirring for 5 hours. After cooling, the salt was filtered off, and the residue was purified by chromatography on a silica gel column (eluted with ethyl acetate/hexane=2/3), to obtain 14.5 g of a compound described in Table 1 (No. 6) (65 %).

reactant | N-(4-chloro-2-fluoro-5-mercaptophenyl)-3,4,5,6-tetrahydrophthalimide | 14.0 g | ClC1=CC(=C(C=C1S)N1C(C2=C(C1=O)CCCC2)=O)F | C14H11ClFNO2S
reactant | 4-acetoxytetrahydrofuran-3-yl chloroacetate | 11.0 g | ClCC(=O)OC1COCC1OC(C)=O | C8H11ClO5
reactant | potassium carbonate | 7.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.5 g | [I-].[K+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | N-(5-(4-Acetoxytetrahydrofuran-3-yloxycarbonylmethylthio)-4-chloro-2-fluorophenyl)-3,4,5,6-tetrahydrophthalimide | 14.5 g | C(C)(=O)OC1C(COC1)OC(=O)CSC=1C(=CC(=C(C1)N1C(C2=C(C1=O)CCCC2)=O)F)Cl | C22H21ClFNO7S
